US20010020034A1
3-(4-Cyano-3-hydroxy-isothiazol-5-yl)-1,1-dimethyl-urea (sodium salt)
A solution of 3-(2,2-Dicyano-1-mercapto-vinyl)-1,1-dimethyl-urea (sodium salt) (30 g, 137 mmol) in water (300 mL) was treated at ambient temperature with hydrogen peroxide (14 mL of a 10 M solution). The reaction warmed and thickened with solid formation and so was treated with additional water (100 mL). The mixture was heated to reflux for 15 minutes, effecting complete dissolution and then cooled to ambient temperature. After 1 hour at ambient temperature, the mixture was concentrated to a constant weight (35 g,>100% due to water content) and was used immediately in the next step

reactant | 3-(2,2-Dicyano-1-mercapto-vinyl)-1,1-dimethyl-urea | 137 mmol, 30 g | C(#N)C(=C(S)NC(N(C)C)=O)C#N | C7H8N4OS
reactant | hydrogen peroxide | OO | H2O2
solvent | water | 300 mL | O | H2O
solvent | water | 100 mL | O | H2O
product | 3-(4-Cyano-3-hydroxy-isothiazol-5-yl)-1,1-dimethyl-urea | C(#N)C=1C(=NSC1NC(N(C)C)=O)O | C7H8N4O2S
